US08471005B2
Into a 30 mL vial [5-Bromo-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (90.0 mg, 0.000182 mol), Vinyl boronic acid (100 mg, 0.002 mol), Potassium carbonate (1.12 g, 0.00814 mol), and Tetrakis(triphenylphosphine)palladium (0) (21.3 mg, 0.0000184 mol) were added and purged under an atmosphere of Nitrogen for 10 minutes. N,N-Dimethylformamide (5 mL, 0.06 mol) was added. The reaction mixture was heated at 140° C. for 4 hours. The reaction was partitioned with water and EtOAc. The organic was separated and washed with water. Subsequently the organic was washed with Brine, and dried over magnesium sulfate. The solid was filtered and washed with EtOAc. The solvent was removed under vacuum. The product was isolated via ISCO column chromatography with DCM and Methanol as eluant (0 to 10% methanol). The collected fractions afforded [7-(2-Methoxy-phenyl)-5-vinyl-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine a yellow solid (68 mg, 85%). MP 150-151° C. LCMS (E/I+) 441.24 (M+H). NMR 1H (DSMO-d6)-9.17 (s, 1H), 9.14 (s, 1H), 7.75 (dd, 1H, JJ=1.60, 6.04 Hz), 7.53 (d, 2H, J=8.96 Hz), 7.48 (dt, 1H, JJ=1.52, 6.92 Hz), 7.22 (d, 1H, J=8.36 Hz), 7.00-7.18 (m, 3H), 6.78 (d, 2H, J=9.04 Hz), 5.78 (d, 1H, J=17.56 Hz), 5.24 (d, 1H, J=11.81 Hz), 3.80 (s, 3H), 3.02 (t, 4H, J=4.56 Hz), 2.44 (t, 4H, J=4.68 Hz), 2.21 (s, 3H).

reactant | [5-Bromo-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.000182 mol, 30 mL, 90.0 mg | BrC=1C=C(N2N=C(N=CC21)NC2=CC=C(C=C2)N2CCN(CC2)C)C2=C(C=CC=C2)OC | C24H25BrN6O
reactant | Vinyl boronic acid | 0.002 mol, 100 mg | C(=C)B(O)O | C2H5BO2
reactant | Potassium carbonate | 0.00814 mol, 1.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-Dimethylformamide | 0.06 mol, 5 mL | CN(C=O)C | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium | 0.0000184 mol, 21.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [7-(2-Methoxy-phenyl)-5-vinyl-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | COC1=C(C=CC=C1)C1=CC(=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C)C=C | C26H28N6O
